data/mechanism_extracts/EurJOC/10.1002_ejoc.202200857_sup_1.json
{"doi": "10.1002_ejoc.202200857_sup_1", "journal": "EurJOC", "is_review": false, "rxn_class_summary": "Electrochemical bromination of limonene (olefin) via anodic oxidation of bromide to bromine, which adds across the alkene", "mechanism_family": ["mediator_anodic", "cation_initiated"], "electrochemical_role": "Anodic oxidation of bromide to bromine (Br2), which then reacts with the olefin; tribromide (Br3-) serves as a reservoir in equilibrium with Br2", "key_intermediates": [{"name": "bromine (Br2)", "smiles": "BrBr", "role": "reactive"}, {"name": "tribromide complex (Br3-)", "smiles": "[Br-].BrBr", "role": "resting_state"}, {"name": "bromonium ion / bromiranium of limonene", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes Br- to Br2 (E ~0.49 V); Br2 either equilibrates with excess Br- to form Br3- (resting state) or is consumed by the olefin via electrophilic addition. In the presence of substrate the Br3- oxidation wave diminishes and no reduction wave is observed, indicating Br2 is trapped by the alkene.", "rate_determining_step": null, "probe_reagents": [{"name": "NaBr (bromide source) CV", "smiles": "[Na+].[Br-]", "purpose": "redox_probe", "observation": "Quasi-reversible oxidation at 0.49 V (Br-/Br2) and second oxidation at 0.86 V (Br3-/Br2); reduction wave at -0.21 V"}, {"name": "(S)-(-)-limonene with NaBr CV", "smiles": "CC(=C)[C@@H]1CCC(=CC1)C", "purpose": "intermediate_trap", "observation": "First oxidation shifts from 0.49 V to 0.58 V, second oxidation wave reduced, and reduction wave absent — consistent with electrogenerated Br2 being consumed by the olefin"}], "evidence_types_used": ["cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Mechanism supported solely by CV experiments comparing NaBr alone vs NaBr + limonene; Br3-/Br2 equilibrium acts as a bromine reservoir. No radical traps, KIE, or DFT reported on this page."}
